US07354932B2
Compound 89: Preparation of N1-(4,5,6,7-tetrahydro-1H-benzoimidazol-2-ylmethyl)-N1-(5,6,7,8-tetrahydro-quinolin-8-yl)-butane-1,4-diamine
To a solution of 2-{4-[(4,5,6,7-tetrahydro-1H-benzoimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-butyl}-isoindole-1,3-dione (0.2466 g, 0.51 mmol) in ethanol (5 mL) was added hydrazine hydrate (0.3 mL, 2.5 mmol), and stirred at room temperature for 18 hours. The reaction mixture was concentrated, and purification of the crude material by column chromatography on silica gel (20:1:1 CH2Cl2-MeOH—NH4OH) provided 0.1031 g (58%) of

reactant | 2-{4-[(4,5,6,7-tetrahydro-1H-benzoimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-butyl}-isoindole-1,3-dione | 0.51 mmol, 0.2466 g | N1C(=NC2=C1CCCC2)CN(CCCCN2C(C1=CC=CC=C1C2=O)=O)C2CCCC=1C=CC=NC21 | C29H33N5O2
reactant | hydrazine hydrate | 2.5 mmol, 0.3 mL | O.NN
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | N1-(4,5,6,7-tetrahydro-1H-benzoimidazol-2-ylmethyl)-N1-(5,6,7,8-tetrahydro-quinolin-8-yl)-butane-1,4-diamine | N1C(=NC2=C1CCCC2)CN(CCCCN)C2CCCC=1C=CC=NC21 | C21H31N5
